US08357717B2
Stage 4: Methyl 4-((benzyl(2-chloroethyl)amino)methyl)-1H-imidazole-5-carboxylate
Thionyl chloride (0.5 ml, 4 equiv.) was added to a solution of methyl 4-((benzyl(2-hydroxyethyl)amino)methyl)-1H-imidazole-5-carboxylate (1.7 mmol, 1 equiv.) in DCM (10 ml), and the mixture was stirred for 16 h at 45° C. The reaction mixture was cooled to 25° C. and concentrated in vacuo. The residue was taken up in acetonitrile, the solvent was removed, and the residue was dried for 24 h in vacuo. The desired product was thus obtained in the form of a white solid. This was used in the following stage without further purification. Yield: quantitative

reactant | Thionyl chloride | 0.5 ml, 4 equiv. | S(=O)(Cl)Cl | Cl2OS
reactant | methyl 4-((benzyl(2-hydroxyethyl)amino)methyl)-1H-imidazole-5-carboxylate | 1.7 mmol, 1 equiv. | C(C1=CC=CC=C1)N(CCO)CC=1N=CNC1C(=O)OC | C15H19N3O3
solvent | DCM | 10 ml | C(Cl)Cl | CH2Cl2
product | Methyl 4-((benzyl(2-chloroethyl)amino)methyl)-1H-imidazole-5-carboxylate | Yield: quantitative | C(C1=CC=CC=C1)N(CCCl)CC=1N=CNC1C(=O)OC | C15H18ClN3O2
